US07579359B2
A solution of 2-propyl-1H-imidazo[4,5-c]quinolin-1-ol (2.0 g, 8.8 mmol), bromoacetamide (1.9 g, 14 mmol), and triethylamine (2.8 mL, 0.020 mol) in THF (100 mL) was heated at reflux overnight. The solvent was removed under reduced pressure, and dichloromethane (75 mL) and saturated aqueous sodium bicarbonate (25 mL) were added to the residue. The resulting mixture was filtered to provide 2.1 g of 2-[(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)oxy]acetamide as a solid. The organic layer was separated, and methanol was added until all solids were dissolved. The solution was then dried over potassium carbonate, filtered, and concentrated under reduced pressure to provide an additional 0.13 g of material.

reactant | 2-propyl-1H-imidazo[4,5-c]quinolin-1-ol | 8.8 mmol, 2.0 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)O | C13H13N3O
reactant | bromoacetamide | 14 mmol, 1.9 g | BrCC(=O)N | C2H4BrNO
reactant | triethylamine | 0.020 mol, 2.8 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-[(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)oxy]acetamide | 2.1 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)OCC(=O)N | C15H16N4O2
